US08541588B2
(1-Methyl-1H-pyrazol-5-yl)boronic acid
To a stirred solution of 1-methyl-1H-pyrazole (2.49 mL, 30 mmol) in tetrahydrofuran (100 mL) was added butyllithium (2.5 M in hexane, 15.6 mL, 39 mmol) at −78° C. dropwise. After stirring for 1 hour, triisopropyl borate (27.6 mL, 120 mmol) was added and the reaction mixture was gradually warmed to room temperature for 16 hours. Hydrochloric acid (1 N aqueous solution) was added to the reaction mixture until pH 7 achieved. The mixture was extracted with dichloromethane:methanol (9:1, 5×200 mL). Combined organic extracts were dried over magnesium sulphate and concentrated in vacuo to obtain crude residue. Purification was undertaken by flash column chromatography (ISCO™) eluting with dichloromethane:methanol (7:3, by volume) to afford the title compound as a white solid, 1258 mg, 33% yield.

reactant | 1-methyl-1H-pyrazole | 30 mmol, 2.49 mL | CN1N=CC=C1 | C4H6N2
reactant | butyllithium | 39 mmol, 2.5 M, 15.6 mL | C(CCC)[Li]
reactant | triisopropyl borate | 120 mmol, 27.6 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (1-Methyl-1H-pyrazol-5-yl)boronic acid | 33% yield | CN1N=CC=C1B(O)O | C4H7BN2O2
